US06340759B1
According to the method of Example 10-1, N-methyl-2-methylbenzamide (4.28 g) and 4-(n-butyl)benzonitrile (4.57 g) were reacted, to give 3-[4-(n-butyl)phenyl]isoquinolin-1-one (2.51 g).

reactant | N-methyl-2-methylbenzamide | 4.28 g | CNC(C1=C(C=CC=C1)C)=O | C9H11NO
reactant | 4-(n-butyl)benzonitrile | 4.57 g | C(CCC)C1=CC=C(C#N)C=C1 | C11H13N
product | 3-[4-(n-butyl)phenyl]isoquinolin-1-one | 2.51 g | C(CCC)C1=CC=C(C=C1)C=1NC(C2=CC=CC=C2C1)=O | C19H19NO
